US07960409B2
Step 7: (S)-1-{1-[(4-chloro-2-cyanoquinolin-7-yl)methyl]-1H-1,2,3-triazol-4-yl}-1-(trifluoromethyl)propyl 4-nitrobenzoate
To a solution of 7-(azidomethyl)-4-chloroquinoline-2-carbonitrile (560 mg, 2.3 mmol) and 1-ethyl-1-(trifluoromethyl)prop-2-yn-1-yl 4-nitrobenzoate (S-isomer, 728 mg, 2.42 mmol) in THF (18 mL) was added diisopropylethylamine (2.0 mL, 11.5 mmol) followed by copper iodide (655 mg, 3.45 mmol). The mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, washed with a sat. sol. of NH4Cl, Brine and dried over anhydrous MgSO4. The solvent was removed under reduced pressure, and the resulting crude product was purified by flash chromatography (eluting solvent: 5% acetone in CH2Cl2) to afford the title compound. 1H NMR (400 MHz, acetone-d6): δ 8.55 (s, 1H), 8.45 (d, 2H), 8.37 (d, 1H), 8.30 (d, 2H), 8.22 (s, 1H), 8.07 (s, 1H), 7.90 (d, 1H), 6.05 (s, 2H), 3.05 (m, 1H), 2.85 (m, 1H), 1.15 (t, 3H).

reactant | 7-(azidomethyl)-4-chloroquinoline-2-carbonitrile | 2.3 mmol, 560 mg | N(=[N+]=[N-])CC1=CC=C2C(=CC(=NC2=C1)C#N)Cl | C11H6ClN5
reactant | 1-ethyl-1-(trifluoromethyl)prop-2-yn-1-yl 4-nitrobenzoate | 2.42 mmol, 728 mg | [N+](=O)([O-])C1=CC=C(C(=O)OC(C#C)(C(F)(F)F)CC)C=C1 | C13H10F3NO4
reactant | diisopropylethylamine | 11.5 mmol, 2.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 3.45 mmol, 655 mg | [Cu](I)I
product | (S)-1-{1-[(4-chloro-2-cyanoquinolin-7-yl)methyl]-1H-1,2,3-triazol-4-yl}-1-(trifluoromethyl)propyl 4-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)O[C@](CC)(C(F)(F)F)C=2N=NN(C2)CC2=CC=C3C(=CC(=NC3=C2)C#N)Cl)C=C1 | C24H16ClF3N6O4
